US04988723
To a suspension of 2-cyanoiminoimidazolidine (0.42 g) in dimethyl sulfoxide (12.5 ml) was added 60% sodium hydride (0.15 g) under water-cooling and the mixture was stirred at room temperature for 0.5 hours. 3,4-Epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.50 g) was added portionwise thereto. After being stirred at room temperature overnight, the mixture was poured into ice-brine (50 ml) and extracted with ethyl acetate (50 ml). The extract was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was pulverized with chloroform and recrystallized from ethanol to give trans-4-(2-cyanoiminoimidazolidin-1-yl)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.15

reactant | 2-cyanoiminoimidazolidine | 0.42 g | C(#N)N=C1NCCN1 | C4H6N4
reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | 3,4-Epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 0.50 g | O1C2C(OC3=C(C21)C=C(C=C3)C#N)(C)C | C12H11NO2
solvent | dimethyl sulfoxide | 12.5 ml | CS(=O)C | C2H6OS
product | trans-4-(2-cyanoiminoimidazolidin-1-yl)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | C(#N)N=C1N(CCN1)[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C16H17N5O2
